Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides) / Zestril
 
Attending: ___.
 
Chief Complaint:
Right sided weakness after elective pulmonary vein isolation
 
Major Surgical or Invasive Procedure:
transesophageal echocardiography
pulmonary vein isolation
thrombolysis
 
History of Present Illness:
Mrs. ___ is a ___ year old female with idiopathic atrial 
fibrilation several vascular risk factors including diabetes and 
hypertension who was admitted today for elective pulmonary vein 
isolation.  Approximately 2 hours following the procedure she 
developed sudden onset right sided weakness and numbness.  Neuro 
exam was pertinent for right sided numbness, weakness and right 
hemianopsia.  A stat stroke consult was called and neurology 
recommended stat head CT.  Head CT showed possible loss of 
gray-white differentiation in the distribution of L MCA.  CTA 
did not seem to show a definite clot in left main stem MCA but 
on coronal section decreased flow in M3 and M4 on left side.  
CTP showed a possible area of decreased blood volume in the left 
MCA.  She was given tPA, bolus dose of 9mg followed by infusion 
of 81mg.  Within the first hour of receiving tPA she began to 
have increased movement in her right arm and right foot.  Right 
hemianopsia persisted.  She was transferred to the CCU for 
overnight monitoring. 
.
In terms of her atrial fibrillation, she was referred for the 
procedure because she failed propafenone and sotalol.  She was 
last
cardioverted in ___ while on Sotalol 80 bid and reverted 
back to atrial fibrillation within minutes of getting shocked.  
Since ___ she has been in atrial fibrillation.  She reports 
a rapid heart beat and shortness of breath with exertion.  Prior 
to her procedure she had taken subcutaneous Lovenox after 
stopping warfarin.  In addition, a TEE performed just prior to 
her procedure showed no evidence of left atrial clot.  She also 
received therapeutic IV heparin throughout the period of left 
atrial access during her atrial fibrillation ablation procedure.
.
On review of symptoms, she reports post procedural substernal 
discomfort without radiation; chronic lower back pain; diffuse 
achy belly pain.  Of note she has a long standing history of low 
back pain and history of irritable bowel syndrome.  She has no 
prior history of stroke, TIA, deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, cough, 
hemoptysis, black stools or red stools.  She denies recent 
fevers, chills or rigors.  All of the other review of systems 
were negative.  
.  
She does have frequent "shooting" chest pain which comes and 
goes and is not related to exertion.  It resolves on its on.  
She also notes dyspnea on minimal exertion, especially with 
climbing stairs.  She currently has no chest pain or shortness 
of breath.  She denies any current paroxysmal nocturnal dyspnea, 
orthopnea, ankle edema, syncope or presyncope.  Please note pt 
was admitted in ___ for the cardiac compaints and was rule 
dout for MI and had cath with clean coronaries.

 
Past Medical History:
1.  Diabetes mellitus, medically treated.
2.  Hypertension.
3.  Irritable bowel syndrome.
4.  Chronic renal insufficiency.
5.  Peptic ulcer disease.
6.  Pulmonary hypertension.
7.  COPD.
8.  No evidence for coronary artery disease by cardiac cath on 
disease on ___
9.  Fatty liver, followed previously at ___.
10. Chronic low back pain and left hip pain s/p hip replacement
11. Paroxysmal atrial fibrillation, previously on coumadin
12. Right shoulder pain, s/p surgery
___. Depression/PTSD
 
Social History:
___
Family History:
Her mother had MI times three and Alzheimer's
disease.  Her father had throat cancer, the patient does not 
have
contact with him.
 
Physical Exam:
Exam at the time of CCU admission:
VS: T 99.5 BP ___ HR NSR 83, RR 19, 97% O2 % on 2L
Gen: WDWN middle aged obese female in NAD, resp or otherwise. 
Oriented x3. Mood, affect appropriate. Pleasant.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
Neck: Supple with no JVD.  
CV:  RR, normal S1, S2. No S4, no S3.  
Chest: Reproducible tenderness on anterior chest wall.  No chest 
wall deformities, scoliosis or kyphosis. Resp were unlabored, no 
accessory muscle use. No crackles, wheeze, rhonchi in the 
anterior lung fields.  
Abd: Obese, soft, NTND, No HSM. Mild diffuse tenderness to deep 
palpation. 
Ext: No c/c/e. Access sites in left and right groin with no 
swelling, redness or tenderness.  No bruit.  No hematoma 
appreciated.  1+ pulses in bilateral lower extremities.
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
Pulses:  
Right: Carotid 2+ without bruit 
Left: Carotid 2+ without bruit
.
Neuro
Motor: Able to lift right arm off of the bed and hold for 
several seconds, weak grip, wiggles toes, but unable to lift 
right leg off of bed.  Left arm and leg with normal strength.  
Sensory intact to light touch, pinprick, joint position sense,
vibration throughout the left side; she has decreased light 
touch
throughout the right side more pronounced in the right lower 
extremity.  Decreased sensation in V1-V3 on the right.  
Cranial nerves: Extraocular movements intact, no nystagmus.  
PERRL.  Right hemianopsia, left sided visual fields intact.  
Speech intact.  Tongue midline, equal SCM muscles bilaterally.
Reflexes: Intact bilaterally with downgoing toes.
Coordination and Fine finger movements intact on left only.
 
Pertinent Results:
CT brain perfusion ___

HEAD CT: There is no evidence of hemorrhage, edema, mass, mass 
effect, or infarction. The ventricles and sulci are normal in 
caliber and configuration. There is no fracture.

HEAD AND NECK CTA: The right vertebral artery is diminutive, but 
patent, and ends in ___ termination. There is mild 
atherosclerotic plaque in the bilateral carotid artery 
bifurcations, but the distal cervical internal carotid arteries 
are normal according to NASCET criteria bilaterally. There is no 
evidence of aneurysm formation or other vascular abnormality.

CT PERFUSION: The perfusion map appear normal, with no evidence 
of delayed transit time, reduced blood flow or blood volume.

IMPRESSION: No CT or CT perfusion evidence of brain ischemia. 
However, please note that MRI with diffusion-weighted imaging is 
more sensitive especially for the detection of small areas of 
brain ischemia
TEE ___

The left atrium is normal in size. Mild spontaneous echo 
contrast is present in the left atrial appendage. No thrombus is 
seen in the left atrial appendage. Mild spontaneous echo 
contrast is seen in the right atrial appendage. No thrombus is 
seen in the right atrial appendage No atrial septal defect is 
seen by 2D or color Doppler. Overall left ventricular systolic 
function is normal. The ascending, transverse and descending 
thoracic aorta are normal in diameter and free of 
atherosclerotic plaque to 46 cm from the incisors. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no pericardial effusion. 

IMPRESSION: No intracardiac thrombus seen. Mild spontaneous 
biatrial echo contrast.
MRI ___

ROUTINE MRI OF THE BRAIN WITHOUT GADOLINIUM. ROUTINE MRA OF THE 
CIRCLE OF ___ USING 3D TIME-OF-FLIGHT TECHNIQUE.

Comparison is made with CT perfusion performed one day prior.

On the diffusion-weighted images, there are three punctate foci 
of slow diffusion, two in the left motor cortex and one in the 
right parietal subcortical white matter.

There are associated very subtle hyperintensities on FLAIR 
images.

MRA of the circle of ___ demonstrates patency of the anterior 
and posterior circulations. There is no aneurysm or stenosis 
within limits of this examination.

There is no hydrocephalus.

IMPRESSION:

Three tiny punctate, probably embolic acute infarctions as 
described above, without associated mass effect or edema
 
Brief Hospital Course:
# CVA

Patient with several vascular risk factors, postop from 
pulmonary vein isolation, who had sudden onset right-sided 
numbness/weakness. Her neurologic exam was significant for right 
sided numbness and fluctuating weakness, as well as right
hemianopsia, most concerning for L MCA stroke. Head CT showed 
possible loss of gray-white differentiation in the distribution 
of L MCA. CTA did not seem to show a definite clot in left main 
stem MCA but on coronal section decreased flow in M3 and M4 on 
left side. CTP showrd a possible area of decreased blood volume 
in the left MCA
She was within the three hour window for IV tPA and given the 
findings on CTA/P and her neurologic exam, she was given 9 mg iv 
STAT and then 81 mg infusion in one hour. TEE showed no evidence 
for thrombus in atria. MRI on ___ showed three tiny punctate, 
probably embolic acute infarctions without associated mass 
effect or edema. Patient's weakness and strength improved 
significantly throughout hospitalization. Prior to discharge, 
she had full strength and sensation in her arm and leg and only 
a mild residual visual field deficit.  She was evaluated by ___ 
prior to discharge, sent home with ___ and services. She was 
scheduled neurology follow up.

.  
# Atrial fibrillation 

Refractory to multiple medications and cardioversions. s/p PVI 
for atrial fibrillation which did not keep patient in SR. She 
developed atrial fibrillation three times throughout 
hospitalization requiring several doses of IV metroprolol and 
diltiazem.  Propafenone was started and titrated up to 225mg 
TID, which appeared to effectively suppress her atrial 
fibrillation. At discharge she was in SR on propafenone and 
diltiazem. She was scheduled a exercise stress test to assess 
her heart rate response on propafenone and diltiazem. Patient 
was sent home on ___ of Hearts monitor to assess rhythym. She 
was sent home on enoxaparin bridge while awaiting therapeutic 
INR on warfarin. She was given instructions to follow up with 
her PCP ___ 3 days for INR check. Patient to follow up with Dr. 
___ in 1 month.

 
.  
# HTN

Stable on regimen of diltiazem, lisinopril and furosemide.
.     
# DM II

Discharged on home glipizide dose.
 
Medications on Admission:
Cardizem 240mg daily
Lisinopril 10mg daily
Glucotrol 20mg daily
Lasix 40mg daily
Lexapro 20mg in the morning, 10mg in the evening
Coumadin 5mg hs
Lovenox prior to procedure
Vitamin D 800U daily
Zofran PRN nausea
 
Discharge Medications:
1. Lovenox ___ mg/mL Syringe Sig: One (1)  Subcutaneous twice a 
day for 10 days: until INR therapeutic for 3 days.
Disp:*20 100mg/ml* Refills:*0*
2. Diltiazem HCl 240 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).
Disp:*30 Capsule, Sustained Release(s)* Refills:*0*
3. Warfarin 2.5 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).
Disp:*90 Tablet(s)* Refills:*0*
4. Propafenone ___ mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
5. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO every six (6) hours as needed.
Disp:*14 Tablet(s)* Refills:*0*
6. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
7. Glipizide 10 mg Tab,Sust Rel Osmotic Push 24hr Sig: Two (2) 
Tab,Sust Rel Osmotic Push 24hr PO DAILY (Daily).  
8. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Escitalopram 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
10. Vitamin D 400 unit Tablet Sig: Two (2) Tablet PO once a day. 
 
11. Rosuvastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*0*
12. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.  

Addendum: The patient was discharged a daily dose of propafenone 
225mg.  6 days after discharge the patient was contacted and 
instructed to take propafenone ___ TID.
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
CVA
Atrial fibrillation
DM type II
COPD
Pulmonary HTN

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted for treatment of a stroke for which you were 
given thrombolytics with improvement of your neurological 
symptoms. A heart ultrasound showed no evidence for a clot or 
hole in the heart which may have caused a stroke given your 
history of atrial fibrillation. You are also to be setup with a 
___ of Hearts monitor to further define your irregular heart 
rhythym. You need to follow up with your primary care doctor on 
___ to have you INR level checked, you will be on 
Lovenox until your INR is therapeutic. You will follow up with 
Dr. ___ in 1 month and with neurology. You will also have an 
exercise stress test in the next ___ weeks to assess your heart 
rate response to exercise. 

If you have any chest pain, palpitations or any worrisome 
symptoms return to the ER or call your PCP's office

 
Followup Instructions:
___